US08258140B2
tert-Butyl 4-[2-[4-(1-(benzyloxycarbonyl)-1,2,3,6-tetrahydropyridin-4-yl)phenoxy]ethyl]piperazine-1-carboxylate (66% pure by weight) (34.62 g, 43.80 mmol) and 5% palladium on carbon (50% wet) (4.47 g, 1.05 mmol) in MeOH (250 mL) were stirred under an atmosphere of hydrogen at 5 bar and 60° C. for 4 hours. The catalyst was removed by filtration and the solvents evaporated to give crude product. The crude product was purified by flash silica chromatography, eluting with 60% EtOAc in isohexane then 15% 2M ammonia/MeOH in DCM. Pure fractions were evaporated to dryness to afford tert-butyl 4-[2-[4-(piperidin-4-yl)phenoxy]ethyl]piperazine-1-carboxylate (15.42 g, 90%) as a solid.

reactant | tert-Butyl 4-[2-[4-(1-(benzyloxycarbonyl)-1,2,3,6-tetrahydropyridin-4-yl)phenoxy]ethyl]piperazine-1-carboxylate | 43.80 mmol, 34.62 g | C(C1=CC=CC=C1)OC(=O)N1CCC(=CC1)C1=CC=C(OCCN2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C30H39N3O5
catalyst | palladium on carbon | 1.05 mmol, 4.47 g | [Pd] | Pd
solvent | MeOH | 250 mL | CO | CH4O
product | tert-butyl 4-[2-[4-(piperidin-4-yl)phenoxy]ethyl]piperazine-1-carboxylate | 15.42 g, 90% | N1CCC(CC1)C1=CC=C(OCCN2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C22H35N3O3
